US08242104B2
Step 3: Methyl 2-(tributylstannyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate
Isopropylmagnesium chloride in tetrahydrofuran (2.0 M, 1.5 mL, 3.00 mmol) was added dropwise to a solution of methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (740 mg, 2.00 mmol) in Tetrahydrofuran (12 mL, 150 mmol) at room temperature. The mixture was stirred for 2.5 hours. Tributyltin chloride (0.8138 mL, 3.000 mmol) was added and the mixture was stirred for 18 hours. The mixture was mixed with sat aq. NH4Cl and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and purified on 25 g silica column eluting with 15-20% ethyl acetate in heptane. Yield 160 mg (15%). MS (ESI+): 535.2

reactant | Isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | tetrahydrofuran | 3.00 mmol, 2.0 M, 1.5 mL | O1CCCC1 | C4H8O
reactant | methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 2.00 mmol, 740 mg | IC=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1 | C13H11IN2O3
reactant | Tetrahydrofuran | 150 mmol, 12 mL | O1CCCC1 | C4H8O
reactant | Tributyltin chloride | 3.000 mmol, 0.8138 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | NH4Cl | [NH4+].[Cl-]
product | Methyl 2-(tributylstannyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | C(CCC)[Sn](C=1N=C2N(CCOC3=C2C=CC(=C3)C(=O)OC)C1)(CCCC)CCCC | InChI=1S/C13H11N2O3.3C4H9.Sn/c1-17-13(16)9-2-3-10-11(8-9)18-7-6-15-5-4-14-12(10)15;3*1-3-4-2;/h2-3,5,8H,6-7H2,1H3;3*1,3-4H2,2H3;
